US04159331
In the manner given in Example 1C, 4,7-dichloroquinoline is heated with 1-[(p-aminophenyl)-sulfonyl]-4-[[(3-propoxy-5-fluorophenyl)amino]-carbonyl]piperazine to give 1-[[(3-propoxy-5-fluorophenyl)amino]carbonyl]-4-[[4-[[7-chloro-4-quinolinyl]amino]phenyl]sulfonyl]piperazine.

reactant | 4,7-dichloroquinoline | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
reactant | 1-[(p-aminophenyl)-sulfonyl]-4-[[(3-propoxy-5-fluorophenyl)amino]-carbonyl]piperazine | NC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(=O)NC1=CC(=CC(=C1)F)OCCC | C20H25FN4O4S
product | 1-[[(3-propoxy-5-fluorophenyl)amino]carbonyl]-4-[[4-[[7-chloro-4-quinolinyl]amino]phenyl]sulfonyl]piperazine | C(CC)OC=1C=C(C=C(C1)F)NC(=O)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)Cl | C29H29ClFN5O4S
